US07279537B2
Synthesis of bis(2-hydroxy-3-tert-butyl-5-methylphenyl)(tert-butyl)phosphine)
To an ethyl acetate/methanol=1/1 solution (60 mL) of bis(2-methoxymethoxy-3-tert-butyl-5-methylphenyl)(tert-butyl)phosphine (1.01 g, 2 mmol) was added acetyl chloride (0.79 g, 10.0 mmol) at room temperature, and the mixture was stirred at room temperature for 15 hours. The solvent was distilled off under reduced pressure to quantitatively obtain bis(2-hydroxy-3-tert-butyl-5-methylphenyl)(tert-butyl)phosphine as a pale yellow solid.

reactant | bis(2-methoxymethoxy-3-tert-butyl-5-methylphenyl)(tert-butyl)phosphine | 2 mmol, 60 mL, 1.01 g | COCOC1=C(C=C(C=C1C(C)(C)C)C)P(C(C)(C)C)C1=C(C(=CC(=C1)C)C(C)(C)C)OCOC | C30H47O4P
reactant | acetyl chloride | 10.0 mmol, 0.79 g | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | bis(2-hydroxy-3-tert-butyl-5-methylphenyl)(tert-butyl)phosphine | OC1=C(C=C(C=C1C(C)(C)C)C)P(C(C)(C)C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C26H39O2P
